US05665718
1.8 g (4 mmol) of (S)-1-(3-diallylaminomethyl-1,2,4-oxadiazol-5-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one were dissolved in 50 ml of methanol and hydrogenated at normal pressure and room temperature in the presence of 60 mg of 5% palladium-charcoal. The catalyst was separated and the solution was evaporated. By chromatography of the residue on silica gel while eluting with methylene chloride/methanol 19.5/0.5 there was obtained 1 g (60%) of (S)-1-(3-dipropylaminomethyl-1,2,4-oxadiazol-5-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 198°-201°.

reactant | (S)-1-(3-diallylaminomethyl-1,2,4-oxadiazol-5-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 4 mmol, 1.8 g | C(C=C)N(CC=C)CC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C23H24N6O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-charcoal | 60 mg | [Pd] | Pd
product | (S)-1-(3-dipropylaminomethyl-1,2,4-oxadiazol-5-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 1 g, 60% | C(CC)N(CCC)CC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C23H28N6O2
